US07511050B2
Step A: N-Pentylthiourea
Pentylisothiocyanate (10 g, 0.08 mol) was added slowly (about 10 mins) to a mixture of ammonia (50 mL, 0.2 mol) in methanol (7 N) at 0° C. After being stirred at room temperature for 1 h, the solvent was stripped off and the product was obtained as a white solid (10 g, 88.4%), which was used for next step without further purification. LCMS calculated for C6H15N2S: (M+H) 147.1; found 147.1.

reactant | Pentylisothiocyanate | 0.08 mol, 10 g | C(CCCC)N=C=S | C6H11NS
reactant | ammonia | 0.2 mol, 50 mL | N | H3N
solvent | methanol | 7 N | CO | CH4O
product | N-Pentylthiourea | 10 g, 88.4% | C(CCCC)NC(=S)N | C6H14N2S
